US09085576B2
To a mixture of cesium carbonate (1.63 g, 5.01 mmol) and 5-chloro-3-fluoropicolinonitrile (0.784 g, 5.01 mmol) was added NMP (5 mL) and ethyl glycolate (0.52 mL, 5.49 mmol). The reaction mixture was stirred at RT for 20 min, heated to 80° C. for 1 h and additional ethyl glycolate (0.10 mL) was added. Stirring was continued at 80° C. for 2 h and the reaction mixture was cooled to RT. The reaction was and diluted with EtOAc and water. The aqueous phase was extracted with EtOAc (2×) and the combined organic extracts were washed with brine (1×), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel eluting with a gradient of 0% to 15% EtOAc in DCM gave ethyl 2-((5-chloro-2-cyanopyridin-3-yl)oxy)acetate (0.83 g, 3.46 mmol, 69% yield) as a white solid. LC/MS (ESI+) m/z=240.9 (M+H). Calculated for C10H9ClN2O3 240.0.

reactant | cesium carbonate | 5.01 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-chloro-3-fluoropicolinonitrile | 5.01 mmol, 0.784 g | ClC=1C=C(C(=NC1)C#N)F | C6H2ClFN2
reactant | NMP | 5 mL | CN1CCCC1=O | C5H9NO
reactant | ethyl glycolate | 5.49 mmol, 0.52 mL | C(CO)(=O)OCC | C4H8O3
reactant | ethyl glycolate | 0.10 mL | C(CO)(=O)OCC | C4H8O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | ethyl 2-((5-chloro-2-cyanopyridin-3-yl)oxy)acetate | 3.46 mmol, 0.83 g, 69% yield | ClC=1C=C(C(=NC1)C#N)OCC(=O)OCC | C10H9ClN2O3
